US07638052B2
Polyethersulfone (SUMIKAEXCEL®4800P, manufactured by Sumika Chem Tex Co., Ltd.) (20 mass %), triethyleneglycol (manufactured by MISTUI CHEMICALS, INC.) (40 mass %), and N-methyl 2-pyrrolidone (manufactured by Mitsubishi Chemical Corporation) (40 mass %) were mixed and stirred to prepare a homogeneous and transparent membrane-forming solution. A hollow fiber membrane was obtained in the same manner as in Example 2, except that this membrane-forming solution and N-methyl 2-pyrrolidone/triethyleneglycol/water (=5/5/90) as a void-forming material were used. The inner diameter of the hollow fiber membrane was 195 μm; the thickness thereof was 51.5 μm; the moisture content thereof was 0.4 mass %; and the mass ratio of the hydrophilic polymer was 0 mass %.

reactant | triethyleneglycol | C(COCCOCCO)O | C6H14O4
reactant | N-methyl 2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | N-methyl 2-pyrrolidone triethyleneglycol water | CN1C(CCC1)=O.C(COCCOCCO)O.O | InChI=1S/C6H14O4.C5H9NO.H2O/c7-1-3-9-5-6-10-4-2-8;1-6-4-2-3-5(6)7;/h7-8H,1-6H2;2-4H2,1H3;1H2
